US09315521B2
To a −78° C. solution of LDA (2 M solution in heptane/THF, 14.2 mL, 28.4 mmol) in anhydrous THF (45 mL) was added a solution of the 3-bromo-5-fluoropyridine (5.0 g, 28.4 mmol) in anhydrous THF (20 mL). The reaction mixture was stirred at −78° C. for 45 minutes. Then, a solution of ethyl chloroformate (24 mL, 284 mmol) was added slowly over 10 minutes. After stirring for 20 minutes, the reaction mixture was quenched with a saturated solution of NaHCO3. The mixture was extracted into ethyl acetate (3×100 mL). The combined organic extracts were extracted with water (2×200 mL), dried over MgSO4, filtered, evaporated, and dried in vacuo, affording ethyl 3-bromo-5-fluoropyridine-4-carboxylate (4.8 g, 69% yield). The product was used without further purification.

reactant | LDA | 28.4 mmol, 2 M, 14.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-bromo-5-fluoropyridine | 28.4 mmol, 5.0 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | ethyl chloroformate | 284 mmol, 24 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 3-bromo-5-fluoropyridine-4-carboxylate | 4.8 g, 69% yield | BrC=1C=NC=C(C1C(=O)OCC)F | C8H7BrFNO2
